US06436961B1
A. 3-Amino-2-phenylpiperidine
A 500 ml Parr bottle was charged with 5 grams of 5% platinum/carbon (50% water wet), 5 grams (0.0293 mol.) 3-amino-2-phenylpyridine (1 equivalent), 75 ml of water (15 vol.) and 25 ml of concentrated hydrochloric acid (5 vol.). The reaction was hydrogenated (maintaining the hydrogen pressure between 36 psi and 50 psi) until high pressure liquid chromatography (HPLC) indicated complete reaction. The catalyst was removed by filtration and the pH of the filtrate was adjusted from 0 to a stable 11.2 using 25% sodium hydroxide (NaOH). The aqueous layer was extracted twice with 50 ml of methylene chloride (CH2Cl2). The organic extracts were combined, dried with magnesium sulfate (MgSO4) and the filtrate was atmospherically distilled to an oil, 4.34 grams (84.1%).

reactant | 3-amino-2-phenylpyridine | 0.0293 mol, 5 grams, 1 equivalent | NC=1C(=NC=CC1)C1=CC=CC=C1 | C11H10N2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | platinum/carbon | 5 grams | [Pt] | Pt
solvent | water | 75 ml | O | H2O
product | 3-Amino-2-phenylpiperidine | NC1C(NCCC1)C1=CC=CC=C1 | C11H16N2
